US07572805B2
Part C. (±)-trans-1-(tert-Butoxycarbonyl)-4-(2-(ethoxycarbonyl)phenyl)pyrrolidine-3-carboxylic acid
To a solution of (±)-trans-benzyl 1-benzyl-4-(2-(ethoxycarbonyl)phenyl)pyrrolidine-3-carboxylate (1.97 g, 4.44 mmol) in 20 mL of methanol was added di-tert-butyl dicarbonate (1.06 g, 4.88 mmol) and 10% Pd/C catalyst (0.2 g, 10 wt %). The resulting mixture was fitted with a three-way stopcock and a hydrogen balloon. The flask was alternatively evacuated (house vacuum) and filled with hydrogen several times and then was allowed to stir under 1 atm of hydrogen for 18 h. The reaction was filtered through a pad of Celite and was concentrated in vacuo. The residue was purified (ISCO, elution with 0-50% EtOAc/hexane) to give 1.45 g (90%) of the title compound. LRMS (ES)+: 364.3 (M+H)+ and 264.2 (M+H—BOC)+.

reactant | (±)-trans-benzyl 1-benzyl-4-(2-(ethoxycarbonyl)phenyl)pyrrolidine-3-carboxylate | 4.44 mmol, 1.97 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=CC=C1)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C28H29NO4
reactant | di-tert-butyl dicarbonate | 4.88 mmol, 1.06 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | (±)-trans-1-(tert-Butoxycarbonyl)-4-(2-(ethoxycarbonyl)phenyl)pyrrolidine-3-carboxylic acid | 1.45 g, 90% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=C(C=CC=C1)C(=O)OCC)C(=O)O | C19H25NO6
